US04950467
In a 500 ml three necked flask was placed 7.0 g Zn dust and 0.7 g Cu powder in 150 ml dry toluene. To this suspension was added a solution of 13.2 g (0.1 mol) cinnamaldehyde and 22.3 g (0.1 mol) ethyl 2-bromohexanoate in 100 ml toluene. The reaction was refluxed overnight under nitrogen, cooled to room temperature and washed two times with 140 ml of 20% acetic acid and two times with 150 ml water. The organic phase was dried over magnesium sulfate and the solvent removed by rotary evaporation. Distillation of the crude product (24.9 g) resulted in isolation of 10.0 g ethyl 2-butyl-5-phenyl-pentadienoate. BP: 135-138 @ 0.1 mm Hg UV (CH2C12): λmax 315, ε=33,280, K=129.

reactant | cinnamaldehyde | 0.1 mol, 13.2 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | ethyl 2-bromohexanoate | 0.1 mol, 22.3 g | BrC(C(=O)OCC)CCCC | C8H15BrO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Zn | 7.0 g | [Zn] | Zn
product | ethyl 2-butyl-5-phenyl-pentadienoate | 10.0 g | C(CCC)C(C(=O)OCC)=CC=CC1=CC=CC=C1 | C17H22O2
